US09193707B2
8. Synthesis of 5-(benzyloxy)-1-chloro-6-methylisoquinoline
Into a 50-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed 5-(benzyloxy)-6-methyl-1,2-dihydroisoquinolin-1-one (100 mg, 0.38 mmol, 1.00 equiv) and POCl3 (10 mL). The resulting solution was heated to reflux for 3 h in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 250 mL of ethyl acetate. The resulting mixture was washed with 2×150 mL of water and 2×150 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:20). This resulted in 70 mg (96%) of 5-(benzyloxy)-1-chloro-6-methylisoquinoline as an off-white solid. MS (ESI) m/z 284 ([M+H]+).

reactant | 5-(benzyloxy)-6-methyl-1,2-dihydroisoquinolin-1-one | 0.38 mmol, 100 mg, 1.00 equiv | C(C1=CC=CC=C1)OC1=C2C=CNC(C2=CC=C1C)=O | C17H15NO2
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-(benzyloxy)-1-chloro-6-methylisoquinoline | C(C1=CC=CC=C1)OC1=C2C=CN=C(C2=CC=C1C)Cl | C17H14ClNO
